*inv_1 for GF180mcu
*
* top_inv_1_load.spi
* ngspice simulation
* 

*****************
.option  nopage nomod
+        newtol numdgt=7 ingold=2 gmindc=1e-18
.option DOTNODE
.option MSGNODE = 0

.TEMP 27

******************
* BSIM4 transistor model parameters for ngspice
*
* nfet_01v8

*******************************
*Simulation conditions

Vground evss 0 0
Vsupply evdd 0 DC 1.8
gfoncd evdd 0 evdd 0 1.0e-15

******************
* circuit model
* include circuit netlist
*.INCLUDE inv_1.spice
*****************

*****************
* Circuit Instantiation

.include test.spice

Xc1 in out  evdd evss  inv_5

*input
*vin in evss dc 0.8 pulse (0 1.8 50ps 10ps 10ps 40ps 100ps)
vin in evss dc 0.8 pulse (0 1.8 50ps 10ps 10ps 490ps 1000ps)


*loading output
*Cload out evss 0.0005pF
*Cload out evss 0.0022pF
*Cload out evss 0.0018pF
*Cload out evss 0.359pF


* transient analysis *
.control
*pre_osdi ../../../dks/sg13g2_nsx2/libs.tech/coriolis/sg13g2_nsx2/psp103_nqs.osdi

TRAN 1ps 1000ps

set width=110

*meas tran inputRslope TRIG v(in) val=0.001 RISE=1 TARG v(in) VAL=1.782 RISE=1
*meas tran inputFslope TRIG v(in) val=1.799 FALL=1 TARG v(in) VAL=0.0018 FALL=1
*
*meas tran outputRslope TRIG v(out) val=0.001 RISE=2 TARG v(out) VAL=1.782 RISE=2
*meas tran outputFslope TRIG v(out) val=1.799 FALL=2 TARG v(out) VAL=0.0018 FALL=2

meas tran inputRslope-- TRIG v(in) val=0.018 RISE=1 TARG v(in) VAL=1.782 RISE=1
meas tran inputFslope-- TRIG v(in) val=1.782 FALL=1 TARG v(in) VAL=0.018 FALL=1

meas tran outputRslope-- TRIG v(out) val=0.018 RISE=2 TARG v(out) VAL=1.782 RISE=2
meas tran outputFslope-- TRIG v(out) val=1.782 FALL=1 TARG v(out) VAL=0.018 FALL=1

meas tran proptimeRFInOut TRIG v(in) val=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
meas tran proptimeFRInOut TRIG v(in) val=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1

meas tran proptimeRFInV2 TRIG v(in) val=0.9 RISE=1 TARG v(Xc1.v1) VAL=0.9 FALL=1
meas tran proptimeFRInV2 TRIG v(in) val=0.9 FALL=1 TARG v(Xc1.v1) VAL=0.9 RISE=1

meas tran proptimeRFV1V2 TRIG v(Xc1.v1) val=0.9 RISE=1 TARG v(Xc1.v2) VAL=0.9 FALL=1
meas tran proptimeFRV1V2 TRIG v(Xc1.v1) val=0.9 FALL=1 TARG v(Xc1.v2) VAL=0.9 RISE=1

meas tran proptimeRFV2V3 TRIG v(Xc1.v2) val=0.9 RISE=1 TARG v(Xc1.v3) VAL=0.9 FALL=1
meas tran proptimeFRV2V3 TRIG v(Xc1.v2) val=0.9 FALL=1 TARG v(Xc1.v3) VAL=0.9 RISE=1

meas tran proptimeRFV3V4 TRIG v(Xc1.v3) val=0.9 RISE=1 TARG v(Xc1.v4) VAL=0.9 FALL=1
meas tran proptimeFRV3V4 TRIG v(Xc1.v3) val=0.9 FALL=1 TARG v(Xc1.v4) VAL=0.9 RISE=1

meas tran proptimeRFV4Out TRIG v(Xc1.v4) val=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
meas tran proptimeFRV4Out TRIG v(Xc1.v4) val=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1

plot v(in) v(out) v(Xc1.v1) v(Xc1.v2) v(Xc1.v3) v(Xc1.v4)
+ title 'input and output of the inverter inv_5 without load'
+ xlabel 'time / s' ylabel 'ResultOutput / V' 

.endc



.end

